US05185351
(ii) methyl 4-bromomethyl-2,3-dichlorobenzoate
A mixture of 40 g (0.183 mol) of methyl 2,3-dichloro-4-methylbenzoate, 34.17 g (0.192 mol) of N-bromosuccinimide, 0.4 g (0.0017 mol) of benzoylperoxide, and 640 mL of carbon tetrachloride was stirred at room temperature while being irradiated with a 150 watt flood lamp for 2.5 hours. Concentration of the filtered reaction mixture under vacuum gave 54 g of material which on trituration with pentane followed by storage of the slurry at 5° C. for 18 hours gave 34.6 g (63.5%) of product; mp 57°-61° C.

reactant | methyl 2,3-dichloro-4-methylbenzoate | 0.183 mol, 40 g | ClC1=C(C(=O)OC)C=CC(=C1Cl)C | C9H8Cl2O2
reactant | N-bromosuccinimide | 0.192 mol, 34.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | carbon tetrachloride | 640 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoylperoxide | 0.0017 mol, 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | pentane | CCCCC | C5H12
product | methyl 4-bromomethyl-2,3-dichlorobenzoate | 54 g | BrCC1=C(C(=C(C(=O)OC)C=C1)Cl)Cl | C9H7BrCl2O2
